US06005116
(a) 5-Phenyl-3-(2-(1-pyrrolidinyl)ethoxy)isoxazole
Pyrrolidine (710 mg) was added to 3-(2-bromoethoxy)-5-phenylisoxazole (268 mg), and the mixture was stirred at 100° C. for one hour. After ice-cold water (20 ml) was added to the reaction mixture and the mixture was extracted with ether (20 ml×2), the organic layer was dried over anhydrous magnesium sulfate. After filtration, the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: ethyl acetate) to obtain the title compound (211 mg, 82%) as colorless crystals.

reactant | Pyrrolidine | 710 mg | N1CCCC1 | C4H9N
reactant | 3-(2-bromoethoxy)-5-phenylisoxazole | 268 mg | BrCCOC1=NOC(=C1)C1=CC=CC=C1 | C11H10BrNO2
product | 5-Phenyl-3-(2-(1-pyrrolidinyl)ethoxy)isoxazole | 211 mg, 82% | C1(=CC=CC=C1)C1=CC(=NO1)OCCN1CCCC1 | C15H18N2O2
